data/mechanism_extracts/JOC/10.1021_acs.joc.2c02966.json
{"doi": "10.1021_acs.joc.2c02966", "journal": "JOC", "is_review": false, "rxn_class_summary": "Electrochemical transition-metal-free sulfonylative cycloetherification/cycloesterification of unsaturated alcohols (and acids) with sulfonyl hydrazides to give saturated sulfonyl-substituted 5- to 8-membered O-heterocycles", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "direct_SET"], "electrochemical_role": "Anodic single-electron oxidation of sulfonyl hydrazide to its radical cation, which loses H+/N2/H2 to generate the sulfonyl radical; the resulting alkyl radical adduct is further oxidized at the anode to a carbocation that is trapped intramolecularly by the tethered hydroxyl; protons are reduced to H2 at the cathode", "key_intermediates": [{"name": "sulfonyl hydrazide radical cation (A)", "smiles": null, "role": "transient"}, {"name": "sulfonyl radical (B)", "smiles": null, "role": "reactive"}, {"name": "carbon-centered alkyl radical from sulfonyl radical addition to alkene (C)", "smiles": null, "role": "reactive"}, {"name": "alkyl carbocation after second anodic oxidation (D)", "smiles": null, "role": "reactive"}], "electron_flow": "The anode oxidizes the sulfonyl hydrazide to a radical cation that loses H+, N2, and H2 to give a sulfonyl radical; this radical adds to the alkene of the unsaturated alcohol to give a benzylic C-radical, which is oxidized again at the anode to a carbocation that is captured by the pendant OH (with loss of H+) to form the cyclic ether; cathode reduces H+ to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "N-phenyl tosylhydrazide (2d-1)", "smiles": "Cc1ccc(S(=O)(=O)N(Nc2ccccc2))cc1", "purpose": "other", "observation": "Gave 3ad in 62% yield, showing the terminal N-H is not essential"}, {"name": "N-morpholinyl tosylhydrazide (2d-2)", "smiles": null, "purpose": "other", "observation": "Gave 3ad in 54% yield, confirming N-H bonds in hydrazide are non-essential"}, {"name": "N-benzoyl-N-morpholinyl tosylhydrazide (2d-3)", "smiles": null, "purpose": "other", "observation": "Gave 3ad in 35% yield, further supporting non-essential N-H"}, {"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Product 3ad not detected; TEMPO-alkyl adduct detected by HRMS, indicating an alkyl radical intermediate"}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "3ad only in trace; BHT-sulfonyl adduct 7e isolated in 27%, supporting sulfonyl radical"}, {"name": "1,1-diphenylethylene", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "3ad in trace; Ts-CH2-C(Ph)=CHPh adduct detected by GC-MS, supporting sulfonyl radical generation"}, {"name": "cyclic voltammetry of 1a and 2a", "smiles": null, "purpose": "redox_probe", "observation": "Oxidation peak of 2a at 1.67 V and of 1a at 2.52 V (vs Ag/AgCl) shows the sulfonyl hydrazide is preferentially oxidized at the anode"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "cyclic_voltammetry", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Alternative pathway where the C-radical C is intercepted by another oxidant rather than oxidized at the anode to a cation cannot be fully excluded, but CV and trapping experiments favor the radical/cation (radical-polar crossover) sequence depicted in Scheme 4. Method is catalyst- and oxidant-free, undivided cell, n-Bu4NClO4 electrolyte, carbon fiber anode / Pt cathode, 10 mA, MeCN, 70 °C."}
